US03932496
The acetylenic alcohol intermediates are produced by reaction of the appropriate carbonyl compounds with an organometallic acetylene reagent, e.g. acetylene magnesium bromide. Typically, 2,2-dimethyl-n-hexaldehyde is contacted with acetylene magnesium bromide and the adduct hydrolyzed to afford 4,4-dimethyl-1-octyn-3-ol. The acetylenic alcohols in which the alcohol group is tertiary are obtained from the appropriate ketones. 2,2-Dimethyl-n-hexaldehyde, for example, is converted to 3,3-dimethyl-2-heptanone by reaction with methyl magnesium bromide followed by hydrolysis of the adduct and oxidation of the secondary alcohol group with chrominum trioxide. That ketone is then contacted with acetylene magnesium bromide and the adduct hydrolyzed to afford 3,4,4-trimethyl-1-octyn-3-ol.

reactant | 2,2-dimethyl-n-hexaldehyde | CC(C=O)(CCCC)C | C8H16O
reactant | acetylene magnesium bromide | [Br-].[Mg+2].C#C.[Br-]
product | 4,4-dimethyl-1-octyn-3-ol | CC(C(C#C)O)(CCCC)C | C10H18O
